US07507748B2
Preparation of [1,6]naphthyridin-3-ylamine
3-Nitro-5,6,7,8-tetrahydro-[1,6]naphthyridine (1 g, 5.6 mmol), pentanol (2 mL) and Pd/C (300 mg) were placed in a microwave reaction vessel and stirred under microwave irradiation at 180° C. for 1 h. After cooling, the mixture was diluted with MeOH and filtered through a pad of Celite. The solvent was removed and the crude was purified by flash column chromatography to give the desired title compound as a yellow solid. MS (ES+): 146.2 (M+H)+. Calc'd for C8H7N3—145.06.

reactant | 3-Nitro-5,6,7,8-tetrahydro-[1,6]naphthyridine | 5.6 mmol, 1 g | [N+](=O)([O-])C=1C=NC=2CCNCC2C1 | C8H9N3O2
reactant | pentanol | 2 mL | C(CCCC)O | C5H12O
solvent | MeOH | CO | CH4O
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | [1,6]naphthyridin-3-ylamine | N1=CC(=CC2=CN=CC=C12)N | C8H7N3
